US09326987B2
N-{1-(Phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-2-furancarboxamide
A stirred solution of N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-2-furancarboxamide (216 mg) and 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (182 mg) with Solvias catalyst (11 mg) in DMF (3 ml) was heated at 120° C. for 20 min in the microwave. The solvent was evaporated and the residue was purified on 20 g silica cartridge using ether and then 10% ethyl acetate:ether. The appropriate fractions were evaporated to dryness and triturated with ether to give the title compound, 90 mg as an off-white solid.

reactant | N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-2-furancarboxamide | 216 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C=C12)[Sn](C)(C)C)NC(=O)C=1OC=CC1
reactant | 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 182 mg | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C13H9BrN2O2S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{1-(Phenylsulfonyl)-6-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-indazol-4-yl}-2-furancarboxamide | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C=C12)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)NC(=O)C=2OC=CC2 | C31H21N5O6S2
